US04503061
A solution of 1,2-dihydro-5-[4-(1H-imidazol-1-yl)phenyl]-6-methyl-2-oxo-3-pyridinecarbonitrile (5.0 g) in 25 ml of concentrated sulfuric acid is heated on a steam bath for 40 minutes, cooled to room temperature and poured into 150 ml of ice. The mixture is adjusted to pH 8 with concentrated ammonia. The solid is collected and recrystallized successively from 10:1 water/acetic acid, dimethylformamide, and 2-methoxyethanol to give 2.06 g of 1,2-dihydro-5-[4-(1H-imidazol-1-yl)phenyl]-6-methyl-2-oxo-3-pyridinecarboxamide, mp 311°-315° C. (dec).

reactant | 1,2-dihydro-5-[4-(1H-imidazol-1-yl)phenyl]-6-methyl-2-oxo-3-pyridinecarbonitrile | 5.0 g | N1(C=NC=C1)C1=CC=C(C=C1)C=1C=C(C(NC1C)=O)C#N | C16H12N4O
reactant | ammonia | N | H3N
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2-dihydro-5-[4-(1H-imidazol-1-yl)phenyl]-6-methyl-2-oxo-3-pyridinecarboxamide | 2.06 g | N1(C=NC=C1)C1=CC=C(C=C1)C=1C=C(C(NC1C)=O)C(=O)N | C16H14N4O2
